US05451688
121 μl (1.66 mmol) of thionyl chloride were added to 60 mg (0.42 mmol) of (-)-(2S)-2-ethyl-2-methylpentanoic acid [prepared as described in Preparation 16], and the resulting mixture was heated at 100° C. for one hour. At the end of this time, the mixture was concentrated by evaporation under reduced pressure. The whole of the (-)-(2S)-2-ethyl-2-methylvaleryl chloride obtained in this manner was added, directly and without purification, to a solution of 458 mg (0.83 mmol) of (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Example B, above], 203 mg (1.66 mmol) of 4-(N,N-dimethylamino)pyridine, a catalytic amount (20 mg) of 4-dimethylaminopyridine and 232 μl of triethylamine in 2.5 ml of toluene, and the resulting mixture was heated under reflux for 24 hours. At the end of this time, the reaction mixture was cooled to room temperature and then mixed with 10 ml of a 10% w/v aqueous solution of hydrogen chloride. The aqueous mixture was extracted three times, each time with 20 ml of ethyl acetate. The combined extracts were then washed with a saturated aqueous solution of sodium chloride, after which the washed solution was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting pale-yellow oily residue was purified by flash column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 88 mg (31% yield) of the title compound as a foam-like substance.

reactant | thionyl chloride | 1.66 mmol, 121 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (-)-(2S)-2-ethyl-2-methylpentanoic acid | 0.42 mmol, 60 mg | C(C)[C@](C(=O)O)(CCC)C | C8H16O2
product | (-)-(2S)-2-ethyl-2-methylvaleryl chloride | C(C)[C@](C(=O)Cl)(CCC)C | C8H15ClO
